US07723330B2
Step B: Preparation of N-benzyl-N-(3-fluoro-4-hydroxyphenyl)acetamide:
To a stirred solution of (E)-4-(benzylideneamino)-2-fluorophenol (430 mg, 2 mmol) in 1 mL glacial acetic acid at 0° C. under nitrogen was added a solution of trimethylamine/borane complex (160 mg, 2.2 mmol) in 1 mL glacial acetic acid dropwise by syringe. After complete addition, the reaction was allowed to warm to room temperature and was then heated to reflux overnight. 6N NaOH was then added until pH was neutral. The aqueous solution was extracted with ether, and the combined ether extracts were dried (MgSO4), filtered and concentrated. The material was loaded onto a Biotage 40S column with dichloromethane and eluted with 4/1 hexanes/EtOAc to afford the product as a white solid (200 mg, 39% yield).

reactant | (E)-4-(benzylideneamino)-2-fluorophenol | 2 mmol, 430 mg | C(/C1=CC=CC=C1)=N\C1=CC(=C(C=C1)O)F | C13H10FNO
reactant | NaOH | 6N | [OH-].[Na+]
reactant | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
reactant | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
product | N-benzyl-N-(3-fluoro-4-hydroxyphenyl)acetamide | 200 mg, 39% yield | C(C1=CC=CC=C1)N(C(C)=O)C1=CC(=C(C=C1)O)F | C15H14FNO2
